### PR TITLE
some exercises for week 5

### LINKED ISSUE #15: **extra** homework for week 4
maybe add it as **extra** homework? it's a good exercise!

_Originally posted by @themathqueen in https://github.com/glams-lean-2024/formal-2024/pull/13#discussion_r1494833123_

### LINKED ISSUE #17: non-equal types
This makes me think of the following as a good exercise (for this or next week):

```lean
example : ∃ α β : Type, α ≠ β
```

_Originally posted by @themathqueen in https://github.com/glams-lean-2024/formal-2024/pull/13#discussion_r1494766782_

### PR DESCRIPTION
**Pull request by themathqueen**
Extra exercises for week 5.

Closes #15 and Closes #17

### CODE REVIEW

File: Formal2024/Exercises/ex5.lean [hunk 1]
```diff
@@ -0,0 +1,82 @@
...
+/-! ### power -/
+
+theorem myEven_pow : ∀ m n, myEven m → myEven (m ^ n) := sorry
+
+theorem myOdd_pow : ∀ m n, myOdd m → myOdd (m ^ n) := sorry
+
+/-! # Part 2 : uniqueness of natural numbers with `≤` -/
+
+theorem Nat.exists_unique_le : ∃! n m : Nat, m ≤ n := sorry
+
```
Comment (SimoneCastellan) [inline Formal2024/Exercises/ex5.lean:75]: Did we introduce exist only before?

File: Formal2024/Exercises/ex5.lean
Comment (SimoneCastellan) [inline Formal2024/Exercises/ex5.lean:1]: Seems good to me, lots of interesting exercises! For the last ones, that means we're going to discuss cardinality too next week?

File: Formal2024/Exercises/ex5.lean (hunk 1 above)
Comment (AdrianDoM) [reply Formal2024/Exercises/ex5.lean:75]: Don't think so. This is exercise seems a little tricky. When you read it it's not clear at all whether it is true or not.

File: Formal2024/Exercises/ex5.lean [hunk 2]
```diff
@@ -0,0 +1,82 @@
...
+/-! # Part 3 : existence implies everything (if and only if the universe is nonempty)
+  in other words, if we know something exists, then everything exists -/
+
+theorem existence_implies_everything_iff {α : Type*} (r : α → Prop) :
+  (∃ x, (r x → ∀ y, r y)) ↔ Nonempty α := sorry
```
Comment (AdrianDoM) [inline Formal2024/Exercises/ex5.lean:93]: ~Is this true? E.g. `α := Nat`, `r n := n = 0`.~ Nvm, I understand now.

File: Formal2024/Exercises/ex5.lean (hunk 1 above)
Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean:75]: Haha - which is why this is a good exercise! At a first glance, you think this is wrong, but then you think about it and actually do it, and you see it's right!

We can introduce `∃!` next week? Or we can just briefly mention it before the exercise?

File: Formal2024/Exercises/ex5.lean
Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean:1]: Hmm, not necessarily, I was thinking we can just briefly mention the definition before the exercise with cardinality and countability

File: Formal2024/Exercises/ex5.lean (hunk 1 above)
Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean:75]: I'd say it's ok if we just explain it here, but I'd also put a warning on it being a tricky exercise

File: Formal2024/Exercises/ex5.lean
Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean:1]: That could work too

File: Formal2024/Exercises/ex5.lean [hunk 3]
```diff
@@ -53,21 +59,32 @@ theorem Nat.exists_unique_le : ∃! n m : Nat, m ≤ n := sorry
...
+
 
-  [-] `ne_types_of_ne_cardinal`: we have non-equal types given their cardinality is non-equal
+We will prove the following lemmas and theorems about non-equal types.
 
-  [-] `ne_types_of_countable_uncountable`: if a type is countable and the other isn't, then they are non-equal
+* `ne_types_of_ne_cardinal`: we have non-equal types given their cardinality is non-equal
 
-  [-] `ne_types_of_different_property`: generalising the above two,
+* `ne_types_of_countable_uncountable`: if a type is countable and the other isn't, then they are non-equal
```
Comment (SimoneCastellan) [inline Formal2024/Exercises/ex5.lean]: Shouldn't this one go first because it's a special case of the other?

File: Formal2024/Exercises/ex5.lean [hunk 4]
```diff
@@ -53,21 +59,32 @@ theorem Nat.exists_unique_le : ∃! n m : Nat, m ≤ n := sorry
...
+section Part_4
 /-! # Part 4 : non-equal types
 
-  we will prove the following lemmas and theorems about non-equal types.
+Firstly, some definitions:
+* `Cardinal` is a structure that represents the cardinality of a type.
+  We can use it to compare the cardinality of two types.
+  In order to use the notation `#α`, which exactly means "the cardinality of `α`", we need to `open Cardinal` first.
+* `Countable α` is defined as `Prop`, which is determined by whether there exists an injective map `α → ℕ`.
+
```
Comment (SimoneCastellan) [inline Formal2024/Exercises/ex5.lean:98]: `Uncountable \alpha` is defined as `\not Countable \alpha`

File: Formal2024/Exercises/ex5.lean [hunk 5]
```diff
@@ -77,6 +94,8 @@ theorem ne_types_of_different_property {α β : Type}
 
 example : ∃ α β : Type, α ≠ β := sorry
```
Comment (SimoneCastellan) [inline Formal2024/Exercises/ex5.lean:167]: To do this one, won't they need lemmas that say Nat is countable and R is uncountable? Or knowledge of the Empty type? Or am I missing an easier way to do it?

File: Formal2024/Exercises/ex5.lean [hunk 6]
```diff
@@ -0,0 +1,101 @@
...
+theorem ne_types_of_different_property {α β : Type}
+  (p : Type → Prop) (hα : p α) (hβ : ¬ p β) : α ≠ β := sorry
+
+example : ∃ α β : Type, α ≠ β := sorry
+
+end Part_4
+
+/-! # Part 5 : Nat.cast is not surjective -/
+
+theorem Nat.cast_is_not_surjective : ¬ Function.Surjective (Nat.cast : ℕ → ℤ) := sorry
```
Comment (SimoneCastellan) [inline Formal2024/Exercises/ex5.lean]: Maybe worth opening the function namespace? Also as per the other comment, if we are not introducing Nat.cast in the lecture we should add a comment on what it is

File: Formal2024/Exercises/ex5.lean (hunk 3 above)
Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean]: eh, they're equivalent cases, it doesn't matter

File: Formal2024/Exercises/ex5.lean (hunk 5 above)
Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean:167]: It's supposed to make you think a little outside the box. So, if you don't know which types are countable or uncountable, then a quick search through `mathlib` will tell you that `\R` is uncountable and `\N` is countable

File: Formal2024/Exercises/ex5.lean (hunk 6 above)
Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean]: Yeah, probably good to open the function namespace.
And, hmm, they should know by now to do `#check Nat.cast`?

File: Formal2024/Exercises/ex5.lean (hunk 5 above)
Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean:167]: But we didn't really discuss mathlib yet. This is a reminder that we should do it soon, but for the moment I'll keep explaining the new stuff we introduce

File: Formal2024/Exercises/ex5.lean (hunk 6 above)
Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean]: You're right. But since this one is not an ordinary lemma and involves stuff like coercion maybe it's worth some explaining

Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean]: If you unfold Surjective you get the coercion symbol in the Infoviewer for example, we've not introduced it up to this point

File: Formal2024/Exercises/ex5.lean (hunk 3 above)
Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean]: Not that it matters too much, but the first one is more general, cause it holds also for finite sets or higher cardinals than aleph_1

File: Formal2024/Exercises/ex5.lean [hunk 7]
```diff
@@ -0,0 +1,102 @@
...
+  This can be confusing when involving more variables, so we will prove the following.
+-/
+
+theorem Nat.exists_unique_le : ∃! n m : Nat, m ≤ n := sorry
+
+/-! # Part 3 : existence implies everything (if and only if the universe is nonempty)
+  in other words, if we know something exists, then everything exists -/
+
+theorem existence_implies_everything_iff {α : Type*} (r : α → Prop) :
+  (∃ x, (r x → ∀ y, r y)) ↔ Nonempty α := sorry
```
Comment (SimoneCastellan) [inline Formal2024/Exercises/ex5.lean:93]: Loved this one! Is there a way of doing it without choice? 
(Also, I'm slightly confused by the wording before, why `if we know something exists, then everything exists`?)

Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean:93]: Since it depends on the type being nonempty, I think choice is required.

I mean this particular proof can avoid it by using [`forall_imp_iff_exists_imp`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Basic.html#forall_imp_iff_exists_imp), but that uses choice. So I don't think there is a way around it.

Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean:93]: Yeah, I don't think that makes much sense, my bad. I think I meant to write "if we know something exists, then if it satisfies a condition `r`, then everything satisfies `r`."

I think this is ["drinker's principle/paradox"](https://en.wikipedia.org/wiki/Drinker_paradox): if someone is in a bar, and that someone is drinking, then everyone in the bar is drinking.

Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean:93]: [wiki/drinker_paradox#non-empty_domain](https://en.wikipedia.org/wiki/Drinker_paradox#Non-empty_domain) actually states the exact theorem I wrote!!

File: Formal2024/Exercises/ex5.lean (hunk 5 above)
Comment (AdrianDoM) [reply Formal2024/Exercises/ex5.lean:167]: In the week 5 material I will mention the `Empty` and `Unit` types. These can be used to answer this, because onle one of them is `Nonempty`.

File: Formal2024/Exercises/ex5.lean (hunk 7 above)
Comment (AdrianDoM) [reply Formal2024/Exercises/ex5.lean:93]: I think by 'choice' you guys mean 'classical logic'? The axiom of choice is definitely not needed for this.

Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean:93]: Yeah lol

Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean:93]: So something like "for any property r, there is an element x such that, if r holds for x, r holds for everything (assuming the universe is nonempty)"

Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean:93]: > I think by 'choice' you guys mean 'classical logic'? The axiom of choice is definitely not needed for this.

I used the axiom of choice to get an element out of Nonempty, but I was wondering if you could do it another way

Comment (AdrianDoM) [reply Formal2024/Exercises/ex5.lean:93]: If `h : Nonempty a`, then `rcases h with ⟨x⟩` will give you `x : a`.

Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean:93]: That's using choice. It's the same as `let x := some a`.

Comment (themathqueen) [reply Formal2024/Exercises/ex5.lean:93]: `rcases h with ⟨x⟩` doesn't even work actually 🤔

Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean:93]: > If `h : Nonempty a`, then `rcases h with ⟨x⟩` will give you `x : a`.

But being allowed to do this implies choice (which is just a function Nonempty a --> a
Weirdly enough, I was able to use `rcases` in the proof at that exercise , but it gives an error when I want to use it to prove choice

Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean:93]:
```lean
lemma thmm {α : Type*} (r : α → Prop) :
  (∃ x, (r x → ∀ y, r y)) ↔ Nonempty α := by
  constructor
  · rintro ⟨x, _⟩
    use x
  · intro h
    rcases h with ⟨x⟩
    by_cases h1 : ∃ (x : α), ¬r x
    · rcases h1 with ⟨y, hy⟩
      use y
      intro hr
      exfalso
      exact hy hr
    · push_neg at h1
      use x
      intro _
      assumption
```

Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean:93]:
```lean
lemma weird {α : Type*} : Nonempty α → α := by
  intro h
  rcases h with ⟨x⟩ 
  exact x
``` 

This one gives an error

Comment (SimoneCastellan) [reply Formal2024/Exercises/ex5.lean:93]: `tactic 'cases' failed, nested error:
tactic 'induction' failed, recursor 'Nonempty.casesOn' can only eliminate into Prop`
